Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea, Dizziness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ woman with past medical history of hyperlipidemia,
hypothyroidism, GERD, who presented with shortness of breath. 

Patient has had worsening dyspnea with exertion for the past 
year
which has worsened in the past several months, progressing now 
to
dyspnea at rest. She was discussing getting stress test with PCP
as ___ ED reports she was referred in for stress test. Last
nuclear stress test in ___ which was normal. Patient endorses
feeling dizzy and weak, occasionally requires gripping
rails/counters to prevent falls. No chest pain but has had
radiating bilateral arm pain with exertion that resolves with
rest which is not new. Has a dry cough for the past year. Denies
fevers, abdominal pain, dysuria. Per chart review in recent PCP
note, she has been having DOE and presyncope for nearly ___ years
that has possibly been worsening; suspected to be most likely
related to deconditioning iso sedentary lifestyle, but with plan
for repeat stress test with echo. 

In the ED:
- Initial vital signs were notable for: 97.7, 87, 109/52, 18, 
99%
RA 

- Exam notable for: Lungs were Clear to auscultation 
bilaterally.
Otherwise unremarkable. 

- Labs were notable for:
7.2  14.0  191 
    >-----<  
     46.5  

142  ___   AGap=11 
-------------< 
4.3  26  1.0 

Trop-T: <0.01 
LFT WNL

- Studies performed include:
CXR: No acute intrathoracic process.

- Patient was given: nothing

Vitals on transfer: 91, 106/57, 20, 98% RA 

Upon arrival to the floor, patient is feeling well. Reports she
has SOB more with exertion but also occasionally at rest,
associated with dry cough and feeling lightheaded with tingling
in both arms during  these episodes. No chest pain. No syncope.
No f/c, N/V, abd pain, dysuria though has baseline urinary
frequency. No ___. 

REVIEW OF SYSTEMS: 
Complete ROS obtained and is otherwise negative except as in HPI
above. 
 
Past Medical History:
BREAST CANCER                                                   
COLONIC POLYPS                                                  
GASTROESOPHAGEAL REFLUX                                         
HYPERLIPIDEMIA                                                  
HYPOTHYROIDISM                                                  
OVERACTIVE BLADDER                                              
GLAUCOMA                                                        
PRE-DIABETES                                               
HEARING LOSS                                                    
OTALGIA 
left sided breast
cancer s/p mastectomy
 
Social History:
___
Family History:
Unknown 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VITALS: 97.4PO, 117 / 73L Lying, 94, 18, 95 Ra 
GENERAL: Alert and interactive. In no acute distress.
EYES: NCAT. EOMI. Sclera anicteric and without injection. 
ENT: supple. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
MSK: No pitting ___ edema. 
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: AOx3. motor ___. 
PSYCH: appropriate mood and affect

DISCHARGE PHYSICAL EXAM:
=========================
GENERAL: Alert and interactive. In no acute distress.
EYES: NCAT. EOMI. Sclera anicteric and without injection. 
ENT: supple. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
MSK: No pitting ___ edema. 
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: AOx3. motor ___. 
PSYCH: appropriate mood and affect
 
Pertinent Results:
ADMISSION LABS
===============
___ 05:30PM BLOOD WBC-7.2 RBC-4.81 Hgb-14.0 Hct-46.5* 
MCV-97 MCH-29.1 MCHC-30.1* RDW-12.5 RDWSD-44.9 Plt ___
___ 05:30PM BLOOD Neuts-75.9* Lymphs-13.5* Monos-8.9 
Eos-0.8* Baso-0.6 Im ___ AbsNeut-5.48 AbsLymp-0.97* 
AbsMono-0.64 AbsEos-0.06 AbsBaso-0.04
___ 05:30PM BLOOD Glucose-93 UreaN-17 Creat-1.0 Na-142 
K-4.3 Cl-105 HCO3-26 AnGap-11
___ 05:30PM BLOOD ALT-8 AST-16 AlkPhos-67 TotBili-0.2
___ 05:30PM BLOOD Lipase-34
___ 05:30PM BLOOD cTropnT-<0.01 proBNP-164
___ 05:30PM BLOOD Albumin-4.4 Calcium-11.5* Phos-2.5* 
Mg-2.0 Cholest-186
___ 05:30PM BLOOD Triglyc-111 HDL-56 CHOL/HD-3.3 
LDLcalc-108
___ 05:30PM BLOOD TSH-1.9
___ 12:51AM BLOOD %HbA1c-5.8 eAG-120

IMAGING
=========
CT Chest wo contrast (___)
IMPRESSION: 
1. Peripheral ground-glass at the lung bases. This may be due to 
dependent changes. To further excess for the possibility that 
this may alternatively represent interstitial lung disease, 
prone imaging may be helpful.
2. Mild subpleural opacification at each lung apex, probably 
incidental
scarring.
3. Very mild ectasia of major airways/bronchiectasis.
4. Small nodule in the right middle lobe measuring up to 5 mm. 
If there are risk factors for malignancy such as smoking, strong 
family history of pulmonary malignancy or occupational exposure 
chest CT could be considered in ___ year.
5. Hyperdense appearance of the liver. Correlation with 
medication history,
specifically amiodarone is recommended. Iron overload is a 
differential
diagnosis in addition to amiodarone use or toxicity.
6. Mild gastric distension.

CTA Head/Neck (___)
1. No acute intracranial abnormality. 
2. There is a small 4 mm noncomplicated aneurysm at origin of 
the left 
posterior inferior cerebral artery 
3. Patent bilateral cervical carotid and vertebral arteries 
without evidence 
of stenosis, occlusion, or dissection. 
4. Right parotid nodule; further evaluation with ultrasound is 
advised. 

Transthoracic Echo (___)
CONCLUSION:
The left atrial volume index is normal. There is mild symmetric 
left ventricular hypertrophy with a normal cavity size. There is 
normal regional and global left ventricular systolic function. 
Quantitative biplane left ventricular ejection fraction is 71 % 
(normal 54-73%). Left ventricular cardiac index is normal (>2.5 
L/min/m2). There is no resting left ventricular outflow tract 
gradient. Tissue Doppler
suggests an increased left ventricular filling pressure (PCWP 
greater than 18 mmHg). Normal right ventricular cavity size with 
normal free wall motion. The aortic sinus diameter is normal for 
gender with a normal ascending aorta diameter for gender. The 
aortic arch diameter is normal with a normal descending aorta 
diameter. The aortic valve leaflets (3) are mildly thickened. 
There is no aortic valve stenosis. There is no aortic 
regurgitation. The posterior mitral valve leaflet is mildly 
elongated with no mitral valve prolapse. There is mild [1+] 
mitral regurgitation. The pulmonic valve leaflets are normal. 
The tricuspid valve leaflets appear structurally normal. There 
is mild [1+] tricuspid regurgitation. The estimated pulmonary 
artery systolic pressure is high normal. There is no pericardial 
effusion. 
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/ global biventricular systolic 
function. Mild mitral regurgitation with elongated leaflets but 
no systolic prolapse. High normal estimated pulmonary artery 
systolic pressure.

STRESS ECHO (___)
Poor functional exercise capacity for age and gender. No 
ischemic ECG changes with no symptoms to achieved treadmill 
stress. No 2D echocardiographic evidence of inducible ischemia 
to achieved workload. Normal pulmonary artery systolic pressure 
at rest. Normal resting blood pressure with a normal blood 
pressure and a blunted heart rate response to achieved workload.

DISCHARGE LABS
================
___ 07:55AM BLOOD WBC-4.9 RBC-3.90 Hgb-11.5 Hct-37.9 MCV-97 
MCH-29.5 MCHC-30.3* RDW-12.9 RDWSD-45.9 Plt ___
___ 07:55AM BLOOD Glucose-87 UreaN-13 Creat-1.1 Na-141 
K-4.9 Cl-105 HCO3-25 AnGap-11
___ 07:55AM BLOOD Calcium-10.4* Phos-3.0 Mg-2.___RIEF HOSPITAL COURSE
====================
___ with hyperlipidemia, hypothyroidism, GERD, who presented 
with subacute shortness of breath and dizziness on exertion with 
negative workup for acute cardiac, pulmonary, or neurologic 
disease.

TRANSITIONAL ISSUES
====================
[ ] High normal PASP on TTE, consider outpatient PFTs, further 
work-up for possible findings of ILD on CT
[ ] Consider repeat imaging of lungs in ___ year to monitor for 
interval change of RML nodule
[ ] Neurosurgery follow-up (Dr. ___ within 4 
weeks for 4mm ___ aneurysm, scheduled ___
[ ] Hyperdense appearance of liver, possibly related to 
amiodarone use or iron overload - consider clinical correlation 
with past amiodarone use (not currently taking) or checking iron 
levels in the outpatient setting
[ ] CTA head/neck showed parotid nodule, consider outpatient 
ultrasound for evaluation
[ ] Consider discontinuing home aspirin if no indication 

ACUTE ISSUES:
====================
# Dyspnea 
Subacute progression of SOB, mainly with exertion but also 
occasionally at rest. Noted to be associated with bilateral arm 
tingling at times, never chest pain. She reports that she 
occasionally wakes up in the middle of the night because of the 
need to cough. Planned for stress echo outpatient with PCP; 
admitted to help facilitate this as well as for broad medical 
workup of potential contributors to SOB. Ambulatory O2 sats 
94-96%. Exercise Echocardiogram at ___ METS revealing for poor 
functional exercise capacity, no inducible ischemia with normal 
pulmonary artery systolic pressure at rest. TTE with no regional 
wall motion abnormality, wnl LVEF, and A1c/lipids wnl, however 
with high normal PASP and increased estimated LV filling 
pressure (PCWP greater than 18 mmHg). CT Chest with peripheral 
ground-glass at the lung bases, representing dependent changes 
vs ILD. CT also revealed small nodule in the right middle lung 
lobe measuring up to 5 mm; patient without neoplasm risk 
factors. CT also revealing for hyperdense liver concerning for 
amiodarone (not taking) or iron overload. Overall this workup 
did not reveal any clear cardiac or pulmonary cause of her 
symptoms. Patient was able to manage a flight of stairs without 
dyspnea prior to discharge
[ ] consider outpatient PFTs for high normal PASP on TTE
[ ] consider further work-up for possible findings of ILD on CT
[ ] consider repeat imaging of lungs in ___ year to monitor for 
interval change of RML nodule
[ ] consider iron level evaluation in outpatient setting

#Dizziness 
Patient with soft blood pressures, however asymptomatic at rest. 
Patient notes that dizziness is sometimes precipitated when 
leaving abruptly from bed to rush to bathroom due to 
incontinence, although without evidence of orthostatic 
hypotension thru admission. CTA Head with finding of 4mm ___ 
aneurysm without clear contribution to dizziness, but unlikely. 
Seen by the neurosurgery team, who recommended follow-up with 
Dr. ___ 4 weeks.
[ ] Neurosurgery follow-up (Dr. ___ within 4 
weeks for 4mm ___ aneurysm, scheduled ___

#Upper extremity paresthesia, bilateral
Pt states has been months since last occurrence, feels like 
fluid running down to elbows bilaterally. Considered spinal 
stenosis causing nerve compression, or vertebrobasilar 
insufficiency in the setting of lightheadedness/dizziness with 
walking. CTA Head/Neck without evidence of carotid and vertebral 
artery stenosis or occlusion. 

CHRONIC ISSUES:
====================
# Aspirin use - continued home dose.
[ ] Consider discontinuing pending indication. 

# Hypothyroidism - continued on home levothyroxine 

# HLD - continued on home simvastatin 40mg, ASA 81mg

# Prediabetes - home metformin was held while inpatient, placed 
on SSI

# GERD - continued on home ranitidine 

# Overactive bladder - home trospium was not on formulary at the 
hospital, however it was recommended that patient continue 
taking this medicine at home

# Glaucoma - continued on home eye drops
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. trospium 60 mg oral DAILY 
2. MetFORMIN (Glucophage) 500 mg PO DAILY 
3. Ranitidine 300 mg PO DAILY 
4. Simvastatin 40 mg PO QPM 
5. Aspirin 81 mg PO DAILY 
6. Levothyroxine Sodium 75 mcg PO DAILY 
7. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
8. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID  
3.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
4.  Levothyroxine Sodium 75 mcg PO DAILY  
5.  MetFORMIN (Glucophage) 500 mg PO DAILY  
6.  Ranitidine 300 mg PO DAILY  
7.  Simvastatin 40 mg PO QPM  
8.  trospium 60 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dyspnea
Dizziness
Bilateral arm paresthesia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital with shortness of breath with walking. 
You walked up and down the stairs with Physical Therapy and 
thankfully you did not have the episode of shortness of breath 
or dizziness that you experienced. Imaging and stress testing of 
your heart showed normal pumping function and no concern for an 
abnormal rhythm or blockage of your heart's blood supply. 
Imaging of your lungs did not show active disease of your lung. 
We recommend you follow-up with your PCP once you leave the 
hospital for further testing, likely focused on your lungs. 

You have also been having difficulty with balance and sensation 
of lightheadedness. Imaging of your brain did not show an 
immediate reason for dizziness such as a stroke, but it did show 
an aneurysm. You were seen by the neurosurgery team and they 
would like you to see them in clinic in the next 4 weeks. 

It was a pleasure taking care of you!
-Your ___ Medicine Team
 
Followup Instructions:
___